US04831041
A mixture of 8-hydroxy-2-methyl-3-(2-propynyl) imidazo-[1,2-a]pyridine (0.571 g) and potassium carbonate (0.424 g) in N,N-dimethylformamide (11.5 ml) was stirred at room temperature for 20 minutes under a nitrogen atmosphere and then 6-methyl-2-ureidobenzyl chloride (0.6 g) was added. After being stirred for 2.5 hours. The mixture was poured into water and the resulting precipitates were collected by filtration. The crude product was purified by column chromatography on silica gel (25 g) with a mixture of chloroform and methanol (100:1 to 100:4) as eluents to give 2-methyl-8-(6-methyl-2-ureidobenzyloxy)-3-(2-propynyl)imidazo[1,2-a]pyridine (0.13 g).

reactant | 8-hydroxy-2-methyl-3-(2-propynyl) imidazo-[1,2-a]pyridine | 0.571 g | OC=1C=2N(C=CC1)C(=C(N2)C)CC#C | C11H10N2O
reactant | potassium carbonate | 0.424 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-methyl-2-ureidobenzyl chloride | 0.6 g | CC1=CC=CC(=C1CCl)NC(=O)N | C9H11ClN2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 11.5 ml | CN(C=O)C | C3H7NO
product | 2-methyl-8-(6-methyl-2-ureidobenzyloxy)-3-(2-propynyl)imidazo[1,2-a]pyridine | 0.13 g | CC=1N=C2N(C=CC=C2OCC2=C(C=CC=C2C)NC(=O)N)C1CC#C | C20H20N4O2
